US09388189B2
a) (S)-2-(1-((5-(1-(3-Amino-5-methoxyphenyl)-1H-pyrazol-3-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((5-(1H-Pyrazol-3-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (67 mg, 0.12 mmol) was treated with 3-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (57 mg, 0.23 mmol), Cu(AcO)2 (32 mg, 0.18 mmol) and pyridine (20 μl, 0.25 mmol) in DMF (1.5 ml). The reaction mixture was submitted at vacuum-argon cycles and stirred at 100° C. under microwave conditions for 2 h. More pyridine and Cu(AcO)2 were added, and the reaction mixture stirred at 100° C. until the reaction was over. The solvent was cooled at room temperature and poured into ice-water, basified with potassium carbonate and extracted with ethyl acetate (×3). The organic phase was successively washed with water and brine, dried over magnesium sulfate, filtered and the solvent evaporated under reduced pressure. The residue (15.3 mg, 14% yield, 75% purity) was used in the next synthetic step without further purification.

reactant | (S)-2-(1-((5-(1H-Pyrazol-3-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.12 mmol, 67 mg | N1N=C(C=C1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C30H35N9O2Si
reactant | 3-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 0.23 mmol, 57 mg | COC=1C=C(N)C=C(C1)B1OC(C(O1)(C)C)(C)C | C13H20BNO3
reactant | pyridine | 0.25 mmol, 20 μl | N1=CC=CC=C1 | C5H5N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | (S)-2-(1-((5-(1-(3-Amino-5-methoxyphenyl)-1H-pyrazol-3-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 14% yield | NC=1C=C(C=C(C1)OC)N1N=C(C=C1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C37H42N10O3Si
